US07652049B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[2′-chloro-4′-fluoro-5′-isopropyl-4-(methylthio)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-bromo-5-(methylthio)benzyl]-4-methyl-1,3-oxazolidin-2-one (60 mg, 0.114 mmol) in 1,4-dioxane (1 mL) was added (2-chloro-4-fluoro-5-isopropylphenyl)boronic acid (10 mg, 0.12 mmol), [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) (28 mg, 30 mol %) and aqueous potassium hydroxide (95 μL, 3M, 2 eq.). The reaction mixture was purged with nitrogen and then sealed in a microwave vessel. The reaction vessel was subject to microwave irradiation at 150° C. for 30 min. Crude mixture was worked up with water and EtOAc. The combined organic extracts were dried over Na2SO4 and concentrated in vacuo to give the crude product. This was purified by preparative TLC plate to afford the titled compound. LC-MS: 619.95 (M+1)+. 1H NMR (CDCl3, 500 MHz) a 1:1 mixture of rotamers δ 7.83-7.88 (m, 1H), 7.72 (s, 1H) 7.68 (s, 1H), 7.30-7.35 (m, 1H), 7.24-7.29 (m, 1H), 7.11-7.19 (m, 2.5H), 7.04-7.07 (m, 0.5H), 5.62 (d, J=8.2 Hz, 0.5H), 5.24 (d, J=8.0 Hz, 0.5H), 4.87 (d, J=15.3 Hz, 0.5H), 4.70 (d, J=15.8 Hz, 0.5H), 3.79-3.98 (m, 2H), 3.18 (m, 1H), 2.55 (s, 1.5H), 2.54 (s, 1.5H), 1.20-1.29 (m, 6H), 0.53 (d, J=6.4 Hz, 1.5H), 0.47 (d, J=6.6 Hz, 1.5H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[2-bromo-5-(methylthio)benzyl]-4-methyl-1,3-oxazolidin-2-one | 0.114 mmol, 60 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)SC)Br)C)(F)F | C20H16BrF6NO2S
reactant | (2-chloro-4-fluoro-5-isopropylphenyl)boronic acid | 0.12 mmol, 10 mg | ClC1=C(C=C(C(=C1)F)C(C)C)B(O)O | C9H11BClFO2
reactant | potassium hydroxide | 3M, 95 μL, 2 eq. | [OH-].[K+]
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino) ferrocene] dichloropalladium (II) | 28 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[2′-chloro-4′-fluoro-5′-isopropyl-4-(methylthio)biphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)SC)C1=C(C=C(C(=C1)C(C)C)F)Cl)C)(F)F | C29H25ClF7NO2S
